US06746990B2
Methyl 4-cyano-2-ethyl-6-methylphenylacetate
7.5 g of methyl 4-bromo-2-ethyl-6-methylphenylacetate were dissolved in 140 ml of dimethylformamide, 5.5 g of copper cyanide were added, and the mixture was heated for 18 hours at 130° C., until the reaction was complete. The mixture was then cooled to room temperature and diluted with water, and the product was extracted repeatedly using tert-butyl methyl ether. The combined organic phases were dried over magnesium sulphate, concentrated and distilled. This gave 3.4 g (52% of theory) of methyl 4-cyano-2-ethyl-6-methylphenylacetate of a boiling point of 123-130° C. and a melting point of 65-72° C.

reactant | methyl 4-bromo-2-ethyl-6-methylphenylacetate | 7.5 g | BrC1=CC(=C(C(=C1)C)CC(=O)OC)CC | C12H15BrO2
reactant | copper cyanide | 5.5 g | [Cu](C#N)C#N
solvent | dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Methyl 4-cyano-2-ethyl-6-methylphenylacetate | C(#N)C1=CC(=C(C(=C1)C)CC(=O)OC)CC | C13H15NO2
